US04922021
0.78 ml (0.88 g, 8 mmoles) of ethyl chloroformate are added to a mixture of 1.0 g (4.85 mmoles) of 1-(2,6-dimethylphenyl-amino)-2-dimethylamino-propane, prepared as described in Example 8, 0.60 ml (0.51 g, 5 mmoles) of triethylamine and 20 ml of 1,2-dichloroethane, and the reaction mixture is boiled for 6 hours. The mixture is washed thrice with 10 ml of water, each, dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure. The oily residue is subjected to column chromatography on 20 g of silica gel, applying ethyl acetate as eluant. 0.91 g (67.4%) of 1-[N-(2,6-dimethylphenyl)-N-ethoxycarbonyl-amino]-2-dimethylamino-propane are obtained as a light yellow, oily substance. The hydrochloride of this base melts at 165°-167° C.

reactant | ethyl chloroformate | 8 mmoles, 0.78 ml, 0.88 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-(2,6-dimethylphenyl-amino)-2-dimethylamino-propane | 4.85 mmoles, 1.0 g | CC1=C(C(=CC=C1)C)NCC(C)N(C)C | C13H22N2
reactant | triethylamine | 5 mmoles, 0.60 ml, 0.51 g | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 1-[N-(2,6-dimethylphenyl)-N-ethoxycarbonyl-amino]-2-dimethylamino-propane | 0.91 g, 67.4% | CC1=C(C(=CC=C1)C)N(C(=O)OCC)CC(C)N(C)C | C16H26N2O2
